US07091227B2
2-[(Ethylamino)Carbonyl]amino-1,3-benzothiazole-6-carboxamide
About 1 g of N-(6-cyano-1,3-benzothiazol-2-yl)-N′-ethylurea was charged into about 30 mL of aqueous alkanol. Added about 0.6 g hydroxylamine hydrochloride and about 0.45 g sodium carbonate then heated to reflux. The solution was refluxed for about 4–8 hours then cooled to room temperature. The precipitate was recovered by filtration and washed well with water. LC/MS indicated a mixture of two products identified as the following after further purification by preparative HPLC:

reactant | N-(6-cyano-1,3-benzothiazol-2-yl)-N′-ethylurea | 1 g | C(#N)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C11H10N4OS
reactant | hydroxylamine hydrochloride | about 0.6 g | Cl.NO
reactant | sodium carbonate | about 0.45 g | C([O-])([O-])=O.[Na+].[Na+]
product | 2-[(Ethylamino)Carbonyl]amino-1,3-benzothiazole-6-carboxamide | C(C)NC(=O)NC=1SC2=C(N1)C=CC(=C2)C(=O)N | C11H12N4O2S
